US08710049B2
1-((1R,2R)-2-((S)-1-(4-Nitrophenyl)piperidin-3-ylamino)cyclohexyl)-3-phenylurea (15 mg) was synthesized in 13% yield using the procedures as described in General Procedure A using 1-fluoro-4-nitrobenzene (39.2 mg, 0.278 mmol) and 1-phenyl-3-((1R,2R)-2-(piperidin-3-ylamino)cyclohexyl)urea (80 mg, 0.253 mmol). Anal. Calcd. for C24H31N5O3 m/z 437.5, found: 438.4 (M+H)+; 1H NMR (500 MHz, CDCl3) δ ppm 9.12 (s, 1H), 7.66 (d, J=8.8 Hz, 2H), 7.37 (br. s., 1H), 7.31 (d, J=8.2 Hz, 2H), 7.15 (t, J=7.7 Hz, 2H), 6.98 (t, J=6.9 Hz, 1H), 6.59 (d, J=8.8 Hz, 2H), 3.68 (br. s., 3H), 3.43-3.34 (m, 1H), 3.26-3.17 (m, 2H), 2.95 (br. s., 1H), 2.32 (br. s., 1H), 2.20-2.11 (m, 1H), 2.05 (br. s., 2H), 1.96 (br. s., 2H), 1.82-1.75 (m, 1H), 1.65 (d, J=15.9 Hz, 2H), 1.46 (br. s., 1H), 1.19 (d, J=9.9 Hz, 2H); 13C NMR (126 MHz, CDCl3) δ ppm 158.96, 153.92, 138.94, 138.78, 128.79, 125.85, 122.92, 118.37, 113.48, 64.58, 53.54, 53.22, 49.48, 47.42, 45.94, 31.34, 29.50, 23.76, 21.69, 14.11, 8.63.

reactant | 1-fluoro-4-nitrobenzene | 0.278 mmol, 39.2 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-phenyl-3-((1R,2R)-2-(piperidin-3-ylamino)cyclohexyl)urea | 0.253 mmol, 80 mg | C1(=CC=CC=C1)NC(=O)N[C@H]1[C@@H](CCCC1)NC1CNCCC1 | C18H28N4O
product | 1-((1R,2R)-2-((S)-1-(4-Nitrophenyl)piperidin-3-ylamino)cyclohexyl)-3-phenylurea | 15 mg, 13% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1C[C@H](CCC1)N[C@H]1[C@@H](CCCC1)NC(=O)NC1=CC=CC=C1 | C24H31N5O3
